US06495546B1
Under nitrogen, to a solution of (2S)-3-phenylthio-1-tosyloxy-2-propanol (3.9 g) in ethanol (40 ml) was added 20% sodium methoxide in ethanol (4.7 ml) at 5° C., and the mixture was stirred at the same temperature for 30 minutes. After being filtrated off to remove precipitates, the filtrate was concentrated in vacuo. The residue was dissolved into a mixture of aqueous 0.1N sodium hydroxide and diethyl ether. After separation, the organic layer was successively washed with water and brine, dried over anhydrous magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=20:1 to 10:1) to give (2S)-1-phenylthio-2,3-epoxypropane (1.5 g).

reactant | (2S)-3-phenylthio-1-tosyloxy-2-propanol | 3.9 g | C1(=CC=CC=C1)SC[C@H](COS(=O)(=O)C1=CC=C(C)C=C1)O | C16H18O4S2
reactant | sodium methoxide | C[O-].[Na+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | ethanol | 4.7 ml | C(C)O | C2H6O
product | (2S)-1-phenylthio-2,3-epoxypropane | 1.5 g | C1(=CC=CC=C1)SC[C@@H]1CO1 | C9H10OS
